US05302718
Methyl 5-ethynyl-2-hydroxybenzoate
A mixture of methyl 5-[(trimethylsilyl)ethynyl]-2-hydroxybenzoate (100 g, 0.57 mol) and potassium fluoride dihydrate (150 g, 1.59 mol) in DNW (600 ml) was stirred for 4 h at room temperature. The solution was extracted with ether (3×400 ml) and the combined ether extracts were washed with 1 M HCI (2×200 MI) and water (2×100 ml). The ether layer was dried with Na2SO4 and evaporated to dryness. Yield 66.5 g (93%).

reactant | methyl 5-[(trimethylsilyl)ethynyl]-2-hydroxybenzoate | 0.57 mol, 100 g | C[Si](C)(C)C#CC=1C=CC(=C(C(=O)OC)C1)O | C13H16O3Si
reactant | potassium fluoride dihydrate | 1.59 mol, 150 g | O.O.[F-].[K+]
product | Methyl 5-ethynyl-2-hydroxybenzoate | C(#C)C=1C=CC(=C(C(=O)OC)C1)O | C10H8O3
